US08530517B2
Bromoacetonitrile (84 mg, 0.7 mmol), K2CO3 (166 mg, 1.2 mmol) and KI (53 mg, 0.32 mmol) were added to a solution of (E)-3-(3′-adamantan-1-yl-4′-hydroxybiphenyl-4-yl)-acrylic acid methyl ester (250 mg, 0.64 mmol) in DMF (2 ml). The mixture was stirred at RT for 3 h. Cold water was added and the solution was extracted with EtOAc. The organic layer was washed with a saturated solution of NaHCO3, water and brine. The organic layer was dried over Na2SO4 and evaporated under reduced pressure to obtain (E)-3-(3′-adamantan-1-yl-4′-cyanomethoxybiphenyl-4-yl)-acrylic acid methyl ester (240 mg, 88%).

reactant | Bromoacetonitrile | 0.7 mmol, 84 mg | BrCC#N | C2H2BrN
reactant | K2CO3 | 1.2 mmol, 166 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | (E)-3-(3′-adamantan-1-yl-4′-hydroxybiphenyl-4-yl)-acrylic acid methyl ester | 0.64 mmol, 250 mg | COC(\C=C\C1=CC=C(C=C1)C1=CC(=C(C=C1)O)C12CC3CC(CC(C1)C3)C2)=O | C26H28O3
reactant | water | O | H2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | (E)-3-(3′-adamantan-1-yl-4′-cyanomethoxybiphenyl-4-yl)-acrylic acid methyl ester | 240 mg, 88% | COC(\C=C\C1=CC=C(C=C1)C1=CC(=C(C=C1)OCC#N)C12CC3CC(CC(C1)C3)C2)=O | C28H29NO3
